US04001237
4-Amino-6,7-dimethoxy-2-[4-(3-methylisoxazole-5-carbonyl)piperazin-1-yl]quinazoline Hydrochloride
A solution of 3-methylisoxazole-5-carbonyl chloride (0.73 g., 5.02 mmole) in dioxane was added to a solution of 4-amino-6,7-dimethoxy-2-(1-piperazinyl) quinazoline (1.45 g., 5.02 mmole) in dioxane. The mixture was heated briefly, then was stirred at 20° C. for 2.5 hours. Workup as in Example 1 gave the title compound having a m.p. of 263°-264° C. with decomposition.

reactant | 3-methylisoxazole-5-carbonyl chloride | 5.02 mmole, 0.73 g | CC1=NOC(=C1)C(=O)Cl | C5H4ClNO2
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl) quinazoline | 5.02 mmole, 1.45 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Amino-6,7-dimethoxy-2-[4-(3-methylisoxazole-5-carbonyl)piperazin-1-yl]quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1=CC(=NO1)C | InChI=1S/C19H22N6O4.ClH/c1-11-8-16(29-23-11)18(26)24-4-6-25(7-5-24)19-21-13-10-15(28-3)14(27-2)9-12(13)17(20)22-19;/h8-10H,4-7H2,1-3H3,(H2,20,21,22);1H
